US08389527B2
A mixture of 6-chloro-N-(3-fluoropyridin-4-yl)-8-(isoxazol-3-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide (20 mg, 0.054 mmol) and trans-cyclohexane-1,4-diamine (61.1 mg, 0.535 mmol) in NMP (0.4 mL) was heated at 110° C. overnight, then cooled to room temperature. The resulting mixture was purified by reversed-phase preparative HPLC. The desired fractions were concentrated and dried to give 18.7 mg of 6-((trans-4-aminocyclohexyl)amino)-N-(3-fluoro-4-pyridinyl)-8-(3-isoxazolylamino)imidazo[1,2-b]pyridazine-3-carboxamide as a beige solid. HPLC Rt=2.292 min (Chromolith SpeedROD 4.6×50 mm, 10-90% aqueous methanol containing 0.1% TFA, 4 min gradient, monitored at 220 nm), [M+1]=452.

reactant | 6-chloro-N-(3-fluoropyridin-4-yl)-8-(isoxazol-3-ylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.054 mmol, 20 mg | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)NC2=NOC=C2 | C15H9ClFN7O2
reactant | trans-cyclohexane-1,4-diamine | 0.535 mmol, 61.1 mg | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
solvent | NMP | 0.4 mL | CN1CCCC1=O | C5H9NO
product | 6-((trans-4-aminocyclohexyl)amino)-N-(3-fluoro-4-pyridinyl)-8-(3-isoxazolylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 18.7 mg | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)NC2=NOC=C2 | C21H22FN9O2
